US07314888B1
At ambient temperature, 9.9 ml of iodomethane is dropwise added to a suspension of 50.0 g of 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoic acid and 22.0 g of potassium carbonate in 150 ml of N,N-dimethylformamide. The mixture thus obtained is stirred at the same temperature as above for 30 minutes. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 51.0 g of methyl 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoate as a light brown-colored solid product.

reactant | iodomethane | 9.9 ml | IC | CH3I
reactant | 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoic acid | 50.0 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC(C)C)C=CC(=C1)OCC(C)C | C28H38O6
reactant | potassium carbonate | 22.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoate | 51.0 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OC)OCC(C)C)C=CC(=C1)OCC(C)C | C29H40O6
